US07288537B2
A solution of {(S)-3-[3-(4-chloro-phenoxy)-azetidin-1-yl]-1-hydroxymethyl-propyl}-carbamic acid tert-butyl ester. (0.46 g, 1.24 mmol) in dichloromethane (6 ml) is treated with trifluoroacetic acid (2 ml) and the reaction mixture stirred for 1 hour at ambient temperature. The solvent is evaporated and the residue dissolved in water. The resulting aqueous solution is basified with saturated aqueous NaHCO3 and extracted into dichloromethane. The dichloromethane is dried over MgSO4 and evaporated to afford (S)-2-amino-4-[3-(4-chlorophenoxy)-azetidin-1-yl]-butan-1-ol as a clear oil. [MH]+ 271.0

reactant | {(S)-3-[3-(4-chloro-phenoxy)-azetidin-1-yl]-1-hydroxymethyl-propyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CCN1CC(C1)OC1=CC=C(C=C1)Cl)CO)=O | C18H27ClN2O4
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | (S)-2-amino-4-[3-(4-chlorophenoxy)-azetidin-1-yl]-butan-1-ol | N[C@H](CO)CCN1CC(C1)OC1=CC=C(C=C1)Cl | C13H19ClN2O2
